US07253286B2
Phenyl N-{4-[2-(butyroylamino)pyridin-4-yl]oxyphenyl}carbamate
Phenyl chloroformate (0.14 ml) was added dropwise to an ice-cooled stirred solution of 4-(4-aminophenoxy)-2-(butyrylamino)pyridine (0.3 g), triethylamine (0.14 ml) and tetrahydrofuran (10 ml). The cooling bath was removed and the mixture was stirred at room temperature overnight. Silica gel was added to the reaction solution, the solvent was distilled off under reduced pressure and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with silica gel, and column purification was performed (hexane:ethyl acetate=2:1, followed by 1:1). The solvent was distilled off under reduced pressure to obtain the target substance as a colorless solid.

reactant | Phenyl chloroformate | 0.14 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(4-aminophenoxy)-2-(butyrylamino)pyridine | 0.3 g | NC1=CC=C(OC2=CC(=NC=C2)NC(CCC)=O)C=C1 | C15H17N3O2
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Phenyl N-{4-[2-(butyroylamino)pyridin-4-yl]oxyphenyl}carbamate | C(CCC)(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C22H21N3O4
